US04661477
3-Isononyloxypropyl-ammoniumethyl phosphonate (compound of the formula (7))
A mixture of 13.81 g. (0.1 moles) of diethyl phosphite, 20 ml. of water and 20 ml. of ethanol is reacted with a mixture of 20.13 g. (0.1 moles) of 3-isononyloxypropyl amine and 30 ml. of ethanol as described in Example 1. nD30 =1.4485 (liquid fraction).

reactant | diethyl phosphite | 0.1 moles | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | 3-isononyloxypropyl amine | 0.1 moles | C(CCCCCC(C)C)OCCCN | C12H27NO
solvent | ethanol | C(C)O | C2H6O
product | 3-Isononyloxypropyl-ammoniumethyl phosphonate | C(C)P([O-])([O-])=O.C(CCCCCC(C)C)OCCC[NH3+].C(CCCCCC(C)C)OCCC[NH3+] | InChI=1S/2C12H27NO.C2H7O3P/c2*1-12(2)8-5-3-4-6-10-14-11-7-9-13;1-2-6(3,4)5/h2*12H,3-11,13H2,1-2H3;2H2,1H3,(H2,3,4,5)
